US07250410B2
3-[(8-ethoxy-7-methoxy-1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile, IIdf.
By replacing 1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbd) in example IIbh by 8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIIda), and 2-nitrobenzyl bromide by 3-bromomethyl-benzonitrile, and proceeding in the same manner, the abovenamed product is obtained. Yield: 35%. M: 148–150° C. 1H-NMR (CDCl3, 200 MHz): d 1.53 (s, 3H, CH3), 3.40 (s, 3H, NCH3), 3.58–3.62 (m, 2H, 1H —CH2Ph+CH), 3.72 (s, 3H, OCH3), 3.75–3.80 (m, 1H CH2Ph), 4.17 (q, 2H, CH2), 6.66 (s, 1H Ar), 6.76 (s, 1H Ar), 7.35–7.67 (m, 9H Ar).

reactant | 8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C)OC1=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C=C1OC | C19H20N2O3
reactant | 2-nitrobenzyl bromide | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | 3-bromomethyl-benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-[(8-ethoxy-7-methoxy-1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile | Yield: 35% | C(C)OC1=CC2=C(C(=NC(C(N2C)=O)CC=2C=C(C#N)C=CC2)C2=CC=CC=C2)C=C1OC | C27H25N3O3
